US07834014B2
(7RS,9aRS)-[2-(5-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-7-yl)-octahydro-pyrido[1,2-a]pyrazin-7-yl]-methanol
7-Chloro-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-5-ylamine (1 eq, see U.S. Pat. No. 6,222,035 B1), cis-(octahydro-pyrido[1,2-a]pyrazin-7-yl)-methanol (1-2 eq.), and CsF (1-2 eq.) were dissolved in DMSO. The mixture was stirred at around 120° C. for 18 hours. The solution was then cooled to room temperature, filtered and purified by preparative HPLC using aqueous CH3CN (buffered with 0.1% TFA) to give the desired, compound as a white solid. Alternatively, for scale up synthesis, the DMSO solvent was removed and the crude product was chromatographed on silica gel column using 5-10% MeOH/CH2Cl2 as eluant to afford the desired product: 1H NMR (400 Hz, CD3OD) δ 7.71 (d, J=2.0 Hz, 1H), 7.14 (d, J=3.5 Hz, 1H), 6.63 (dd, J=3.5, 2.0 Hz, 1H), 5.99 (s, 1H), 4.26 (d, J=13.5 Hz, 1H), 4.19 (d, J=13.5 Hz, 1H), 3.83 (dd, J=10.5, 7.5 Hz, 1H), 3.74 (dd, J=10.5, 7.5 Hz, 1H), 3.04 (dt, J=12.5, 3.0 Hz, 1H), 2.95 (d, J=12.0 Hz, 1H), 2.80 (d, J=11.0 Hz, 1H), 2.62 (dd, J=12.5, 10.5 Hz, 1H), 2.22 (m, 2H), 1.98 (m, 1H), 1.86 (brd, 12.0 Hz, 2H), 1.62 (m, 1H), 1.50-1.42 (m, 2H). MS m/z: 370 [M+H]+.

reactant | 7-Chloro-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-5-ylamine | ClC1=CC=2N(C(=N1)N)N=C(N2)C=2OC=CC2 | C9H6ClN5O
reactant | cis-(octahydro-pyrido[1,2-a]pyrazin-7-yl)-methanol | 1-2 eq. | C1[C@H]2N(CCN1)C[C@@H](CC2)CO | C9H18N2O
reactant | CsF | 1-2 eq. | [F-].[Cs+]
solvent | DMSO | CS(=O)C | C2H6OS
product | (7RS,9aRS)-[2-(5-Amino-2-furan-2-yl-[1,2,4]triazolo[1,5-c]pyrimidin-7-yl)-octahydro-pyrido[1,2-a]pyrazin-7-yl]-methanol | NC1=NC(=CC=2N1N=C(N2)C=2OC=CC2)N2CC1N(CC2)CC(CC1)CO | C18H23N7O2
